US07528136B2
e) 2-Cyclohexyl-8-{(2S,4S)-1-(3,4-dichloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one
As described for Example 64e, (2S,4S)-1-(3,4-dichloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one to the title compound (38.8 mg) by preparative HPLC in 6% yield as colorless oil. MS m/e=647.6 [M+H]+.

reactant | (2S,4S)-1-(3,4-dichloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid | 1 mmol | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N(C)CC2=C(C=C(C=C2)F)F)C(=O)O)C=CC1Cl | C20H20Cl2F2N2O2
reactant | 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | C1(CCCCC1)C1=NC2(C(N1)=O)CCNCC2 | C13H21N3O
product | 2-Cyclohexyl-8-{(2S,4S)-1-(3,4-dichloro-benzyl)-4-[(2,4-difluoro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 38.8 mg, 6% yield | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)C(=O)[C@H]2N(C[C@H](C2)N(C)CC2=C(C=C(C=C2)F)F)CC2=CC(=C(C=C2)Cl)Cl | C33H39Cl2F2N5O2
